US04839360
To 0.25 g of 1,6-diphenyl-2-piperidone were added 0.30 g of phosphorus pentachloride, 0.5 ml of sulfuryl chloride and 5 ml of chloroform, and the mixture was refluxed for 1.5 hours. The reaction mixture was concentrated under reduced pressure, made alkaline with an aqueous sodium hydrogen carbonate solution, and extracted with 30 ml of ethyl acetate. The ethyl acetate extract was washed with water, dried, and concentrated to give 0.21 g of 1-(4-chlorophenyl)-6-phenyl-2-piperidone.

reactant | 1,6-diphenyl-2-piperidone | 0.25 g | C1(=CC=CC=C1)N1C(CCCC1C1=CC=CC=C1)=O | C17H17NO
reactant | phosphorus pentachloride | 0.30 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sulfuryl chloride | 0.5 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-chlorophenyl)-6-phenyl-2-piperidone | 0.21 g | ClC1=CC=C(C=C1)N1C(CCCC1C1=CC=CC=C1)=O | C17H16ClNO
